US04612324
A mixture of 8 g (43 mmol) of 1-benzyl-4,5-dimethylimidazole and 60 ml of 40% aqueous formaldehyde solution was heated in a sealed autoclave at 150° C. for 20 hours. The mixture was evaporated and the semi-solid residue was chromatographed on a column of 300 g of silica gel using a 20% solution of methanol in chloroform for the elution. Evaporation of the eluate yielded 6 g of 1-benzyl-4,5-dimethyl-2-hydroxymethylimidazole of melting point 156°-158° C. After recrystallization from methylcyclohexane, the melting point was 160°-162° C. A portion of the product was treated with a solution of hydrogen chloride in ethanol. Addition of diethyl ether precipitated 1-benzyl-4,5-dimethyl-2-hydroxymethylimidazole hydrochloride of melting point 162°-163° C.

reactant | 1-benzyl-4,5-dimethylimidazole | 43 mmol, 8 g | C(C1=CC=CC=C1)N1C=NC(=C1C)C | C12H14N2
reactant | formaldehyde | 60 ml | C=O | CH2O
product | 1-benzyl-4,5-dimethyl-2-hydroxymethylimidazole | 6 g | C(C1=CC=CC=C1)N1C(=NC(=C1C)C)CO | C13H16N2O
